US07396847B2
3-(4-Bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole
[3-(4-Bromophenyl)-4,5-dihydroisoxazol-5-yl]methanol (4.44 g, 17 mmol) was dissolved in a mixture of triethylamine (2.9 ml, 19 mmol) and dichloromethane (100 ml). The resulting solution was cooled to 0° C., then a 1 M solution of tert-butyldimethylsilylchloride (19 ml) in dichloromethane was added dropwise over 5 minutes. 4-Dimethylamino pyridine (0.423 g, 3.4 mmol) was added and the reaction mixture left to stir overnight at room temperature. A second portion of tert-butyldimethylsilylchloride (19 ml) in dichloromethane and triethylamine (2.9 ml, 19 mmol) were added and the reaction mixture left to stir overnight at room temperature. The reaction mixture was concentrated in vacuo then redissolved in dichloromethane (200 ml) and washed with water (200 ml). The dichloromethane layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo onto silica gel (5 ml). This was then subjected to column chromatography (50 g silica gel bond elut: 0% to 50% ethyl acetate/hexanes) to yield 5.405 g (84%) of the desired compound as white crystals.

reactant | [3-(4-Bromophenyl)-4,5-dihydroisoxazol-5-yl]methanol | 17 mmol, 4.44 g | BrC1=CC=C(C=C1)C1=NOC(C1)CO | C10H10BrNO2
reactant | triethylamine | 19 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilylchloride | 19 ml | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | tert-butyldimethylsilylchloride | 19 ml | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 19 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-Dimethylamino pyridine | 3.4 mmol, 0.423 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(4-Bromophenyl)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4,5-dihydroisoxazole | 5.405 g, 84% | BrC1=CC=C(C=C1)C1=NOC(C1)CO[Si](C)(C)C(C)(C)C | C16H24BrNO2Si
